US08975282B2
Step 1) 4-(4-amino-3-chlorophenoxy)picolinamide
To a mixture of 4-amino-2-chlorophenol hydrochloride (446 mg, 2.4 mmol) in DMSO (4 mL) was added NaH (280 mg, 7.0 mmol, 60% dispersed in mineral oil). The reaction was stirred at rt for 30 minutes, followed by the addition of 4-chloropicolinamide (345 mg, 2.2 mmol). The reaction was microwaved at 160° C. for 2 hours, then cooled to rt, and diluted with water (20 mL). The resulted mixture was extracted with ethyl acetate (20 mL×3) and the combined organic phases were washed with brine (20 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc/PE (v/v)=1/1) to give the title compound as an orange solid (170 mg, 29%).

reactant | 4-amino-2-chlorophenol hydrochloride | 2.4 mmol, 446 mg | Cl.NC1=CC(=C(C=C1)O)Cl
reactant | NaH | 7.0 mmol, 280 mg | [H-].[Na+]
reactant | 4-chloropicolinamide | 2.2 mmol, 345 mg | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | 4-(4-amino-3-chlorophenoxy)picolinamide | 170 mg, 29% | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)N)C=C1)Cl | C12H10ClN3O2
